US04328155
A mixture of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-methanesulfonamidobenzamide (500 mg), triethylamine (823 mg), dimethylaminosulfonyl chloride (1.17 g), and methylene chloride (20 ml) is refluxed for 39 hours. The reaction mixture is washed with aqueous sodium hydrogencarbonate. The organic layer is washed with water, dried over sodium sulfate, and evaporated to remove the solvent. The residue is chromatographed on a column of alumina and eluted with 0.5-1% methanol/methylene chloride. The eluate is evaporated to give N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-[N-(dimethylaminosulfonyl)methanesulfonamido]benzamide (351 mg) as an oil. This product is mixed with tetrahydrofuran (3 ml) and 10% sodium hydroxide (3 ml) and warmed at 80° C. for 1 hour. The reaction mixture is evaporated to remove the tetrahydrofuran, acidified with hydrochloric acid, made alkaline with sodium hydrogencarbonate, salted out with sodium chloride, and shaken with methylene chloride. The organic layer is washed with saturated brine, dried over sodium sulfate, and evaporated to remove the solvent. The residue is chromatographed on a column of alumina and eluted with 3% methanol/methylene chloride. The eluate is evaporated to remove the solvent. The residue is washed with ether/isopropyl ether and filtered to give N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-dimethylaminosulfonamidobenzamide (211 mg). The product is recrystallized from acetonitrile/isopropyl ether to give crystals melting at 129° to 129.5° C.

reactant | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-methanesulfonamidobenzamide | 500 mg | C(C)N1C(CCC1)CNC(C1=C(C=C(C(=C1)NS(=O)(=O)C)C)OC)=O | C17H27N3O4S
reactant | triethylamine | 823 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminosulfonyl chloride | 1.17 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methoxy-4-methyl-5-[N-(dimethylaminosulfonyl)methanesulfonamido]benzamide | 351 mg | C(C)N1C(CCC1)CNC(C1=C(C=C(C(=C1)N(S(=O)(=O)C)S(=O)(=O)N(C)C)C)OC)=O | C19H32N4O6S2
